US04818271
Step D: N-(2-chloro-4-pyridinyl)-N'-(1-methylethyl)urea
A solution of 2.6 grams (0.0203 mole) of 4-amino-2-chloropyridine, 0.53 gram (0.005 mole) of 1,4-diazabicyclo[2.2.2]octane (DABCO), and 3.9 ml (0.0305 mole) of (1-methylethyl)isocyanate in 20 ml of dry dimethylformamide was stirred at ambient temperature for five days. The dimethylformamide was removed under reduced pressure. The residue was taken up in 20 ml of ethanol and this was removed under reduced pressure. The procedure was repeated a second time using an additional 20 ml of ethanol. The residual oil was dried under reduced pressure at ambient temperature for 16 hours, then under reduced pressure at 60° C. for one hour. The resultant solid was triturated in hot water. The mixture was allowed to cool to ambient temperature then placed in a refrigerator where it stood for 60 hours. The solid was collected by filtration, washed with water and dried under reduced pressure for three hours at 40°-50° C. The yield of N-(2-chloro-4-pyridinyl)-N'-(1-methylethyl)urea was 4.1 grams, m.p. 142°-146.5° C. The nmr spectrum was consistent with the proposed structure.

reactant | 4-amino-2-chloropyridine | 0.0203 mole, 2.6 grams | NC1=CC(=NC=C1)Cl | C5H5ClN2
reactant | 1,4-diazabicyclo[2.2.2]octane | 0.005 mole, 0.53 gram | N12CCN(CC1)CC2 | C6H12N2
reactant | (1-methylethyl)isocyanate | 0.0305 mole, 3.9 ml | CC(C)N=C=O | C4H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-(2-chloro-4-pyridinyl)-N'-(1-methylethyl)urea | ClC1=NC=CC(=C1)NC(=O)NC(C)C | C9H12ClN3O
